US03988205
A solution of ethylmagnesium bromide in tetrahydrofuran (prepared in the usual manner from 18.2 g of magnesium, 81.8 g of ethyl bromide and 200 ml of tetrahydrofuran) is treated dropwise within 30 minutes at room temperature, with 26.6 g of but-3-yn-2-ol in 75 ml of tetrahydrofuran. The mixture is stirred under reflux conditions for 2 hours and subsequently treated dropwise with a solution of 11.1 g of [4R,4'R]-4,4'-(isopropylidenedioxy)-bis[[6R]-2,2,6-trimethylcyclohexanone] in 75 ml of tetrahydrofuran. The mixture is stirred for 12 hours under reflux conditions, subsequently acidified by the addition of 1-N aqueous sulphuric acid, then saturated with common salt and extracted with diethyl ether. The ether extract is washed to neutrality with an aqueous common salt solution, dried over sodium sulphate and evaporated under reduced pressure. The resulting oily 4-[[4R,6R]-1,4-dihydroxy-2,2,6-trimethylcyclohex-1-yl]-but-3-yn-2-ol is subsequently acetylated by treatment with acetic anhydride in the presence of pyridine. There is obtained 2-acetoxy-4-[[4R,6R]-1-hydroxy-4-acetoxy-2,2,6-trimethyl-cyclohex-1-yl]-but-3-yne as an oil, which is purified by adsorption on silica gel using n-hexane/diethyl ether (3:2 parts by volume) as the eluant.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | magnesium | 18.2 g | [Mg] | Mg
reactant | ethyl bromide | 81.8 g | C(C)Br | C2H5Br
reactant | but-3-yn-2-ol | 26.6 g | CC(C#C)O | C4H6O
reactant | [4R,4'R]-4,4'-(isopropylidenedioxy)-bis[[6R]-2,2,6-trimethylcyclohexanone] | 11.1 g | C(C)(C)(O[C@H]1CC(C([C@@H](C1)C)=O)(C)C)O[C@H]1CC(C([C@@H](C1)C)=O)(C)C | C21H36O4
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-acetoxy-4-[[4R,6R]-1-hydroxy-4-acetoxy-2,2,6-trimethyl-cyclohex-1-yl]-but-3-yne | C(C)(=O)OC(C)C#CC1(C(C[C@@H](C[C@H]1C)OC(C)=O)(C)C)O | C17H26O5
